US07205306B2
5-Chloro-1-[(1S)-1-cyclopropylpropyl]-3-(5,7-dibromo-2,3-dihydro-1H-indol-1-yl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-[(1S)-1-cyclopropylpropyl]-2(1H)-pyrazinone and 5,7-dibromoindoline as the starting materials. mp 165° C.; 1H NMR (300 MHz, CDCl3): δ 7.49 (d, J=1.8 Hz, 1 H), 7.29 (d, J=1.8 Hz, 1 H), 7.02 (s, 1 H), 4.32 (t, J=7.9 Hz, 2 H), 4.06 (app. q, J=8.0 Hz, 1 H), 3.15 (t, J=8.1 Hz, 2 H), 1.99–1.74 (m, 2 H), 1.11–0.99 (m, 1 H), 0.94 (t, J=7.5 Hz, 3 H), 0.88–0.73 (m, 1 H), 0.57–0.46 (m, 2 H), 0.39–0.27 (m, 1 H); HRMS (CI) calcd for C18H19N3OBr2Cl (M+H)+: 485.9583; found m/z 485.9604.

reactant | 3,5-dichloro-1-[(1S)-1-cyclopropylpropyl]-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)[C@@H](CC)C1CC1)=O | C10H12Cl2N2O
reactant | 5,7-dibromoindoline | BrC=1C=C2CCNC2=C(C1)Br | C8H7Br2N
product | 5-Chloro-1-[(1S)-1-cyclopropylpropyl]-3-(5,7-dibromo-2,3-dihydro-1H-indol-1-yl)-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)[C@@H](CC)C1CC1)=O)N1CCC2=CC(=CC(=C12)Br)Br | C18H18Br2ClN3O
